US05670633
2,2'-Cyclouridine is treated with a solution of 70% hydrogen fluoride/pyridine in dioxane at 120° C. for ten hours to provide after solvent removal a 75% yield of 2'-deoxy-2'-fluorouridine. The 5'-DMT and 3'-cyanoethoxydiisopropylphosphoramidite derivitized nucleoside is obtained by standard literature procedures, M. J. Gait, ed., Oligonucleotide Synthesis. A Practical Approach, (IRL Press, Washington, D.C., 1984) or through the procedure of Example 1A.

reactant | 2,2'-Cyclouridine | C1=CN2[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)OC2=NC1=O | C9H10N2O5
reactant | hydrogen fluoride/pyridine | C1=CC=NC=C1.F
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2'-deoxy-2'-fluorouridine | 75% yield | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
